US07423159B2
A mixture of 1-bromo-3-(4-nitrophenyl)-2-propanone (0.50 g), propanethioamide (0.17 g) and ethanol (10 mL) was heated under reflux for 2 hrs. Saturated aqueous sodium hydrogen carbonate was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give 2-ethyl-4-(4-nitrobenzyl)-1,3-thiazole as a colorless oil (0.45 g, yield 96%) from a fraction eluted with hexane-ethyl acetate (9:1-4:1, v/v).

reactant | 1-bromo-3-(4-nitrophenyl)-2-propanone | 0.50 g | BrCC(CC1=CC=C(C=C1)[N+](=O)[O-])=O | C9H8BrNO3
reactant | propanethioamide | 0.17 g | C(CC)(N)=S | C3H7NS
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-ethyl-4-(4-nitrobenzyl)-1,3-thiazole | 0.45 g, yield 96% | C(C)C=1SC=C(N1)CC1=CC=C(C=C1)[N+](=O)[O-] | C12H12N2O2S
